US03970704
150 grams of mercuric acetate in 400 ml. of dry ethanol is added to 100 g. of 1-acetoxy-3,7-dimethyloct-6-ene (citronellol acetate) in 200 ml. of dry ethanol cooled in an ice bath. The temperature is allowed to come to room temperature by standing overnight. Then the mixture is cooled to 0°, 100 g. of potassium hydroxide in 1.5 l. of ethanol is added followed by addition of 10 g. of sodium borohydride in small portions. After about 30 minutes at 0°, water (100 ml.) is added and mixture left at room temperature for two hours. The mixture is filtered, filtrate concentrated and extracted with ether. The ethereal extract is washed, dried and evaporated to yield 7-ethoxy-3,7-dimethyloctan- 1-ol which is purified by distillation or chromatography.

reactant | ethanol | C(C)O | C2H6O
reactant | 1-acetoxy-3,7-dimethyloct-6-ene | C(C)(=O)OCCC(CCC=C(C)C)C | C12H22O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | 100 ml | O | H2O
product | 7-ethoxy-3,7-dimethyloctan- 1-ol | C(C)OC(CCCC(CCO)C)(C)C | C12H26O2
